US04309566
(Aminocarbonyl)Methyl 2,3,6-Trichlorobenzoate
This compound was prepared in the manner of Example I, using 15.0 grams (0.066 mole) of 2,3,6-trichlorobenzoic acid, 4.4 grams (0.066 mole) of potassium hydroxide, 6.2 grams (0.066 mole) of 2-chloroacetamide, and 1.8 grams of 1,4,7,10,13,16-hexaoxacyclooctadecane in 300 ml of dry toluene and 200 ml of dimethylformamide. The crude product was purified by liquid chromatography, followed by recrystallization from ethyl acetate. The yield was 0.9 gram of (aminocarbonyl)methyl 2,3,6-trichlorobenzoate; mp 158°-160°. The ir and the nmr spectra were consistent with the proposed structure.

reactant | 2,3,6-trichlorobenzoic acid | 0.066 mole, 15.0 grams | ClC1=C(C(=O)O)C(=CC=C1Cl)Cl | C7H3Cl3O2
reactant | potassium hydroxide | 0.066 mole, 4.4 grams | [OH-].[K+]
reactant | 2-chloroacetamide | 0.066 mole, 6.2 grams | ClCC(=O)N | C2H4ClNO
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 1.8 grams | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (Aminocarbonyl)Methyl 2,3,6-Trichlorobenzoate | ClC1=C(C(=O)OCC(=O)N)C(=CC=C1Cl)Cl | C9H6Cl3NO3
